US06756378B2
To a stirred mixture of p-iodothiophenol (1.75 g, 7.43 mmol) and N-(tert-butoxycarbonyl)-2-pyrrolidinylmethyl p-toluenesulfonate (2.39 g, 6.75 mmol) in pyridine (12.7 mL) was added 8N KOH (1.27 mL) at room temp, and the resulting mixture was stirred for 4 hr at the same temp. The reaction mixture was diluted with EtOAc. The solution was washed with H2O, sat NH4Cl, brine, and dried over Na2SO4. The organic layer was concentrated under a reduced pressure. The residue was chromatographed on silica-gel with n-hexane-EtOAc (5:1, v/v) as eluent to afford 1.49 g (53%) [N-(tert-butoxycarbonyl)-2-pyrrolidinyl]methyl 4-iodophenyl sulfide as a pale yellowish oil. 1H-NMR (400 MHz, CDCl3) δ(s, 9H), 1.78-2.01(br m, 4H), 2.71 (dt, 1H), 3.32-3.49 (br m, 3H), 3.90-4.02 (br m, 1H), 7.12 (d, J=7.8 Hz, 1H), 7.18 (d, J=7.8 Hz, 1), 7.57 (dd, J=2.0, 8.3 Hz, 2H); MS (FAB) m/z 420(M++1).

reactant | p-iodothiophenol | 7.43 mmol, 1.75 g | IC1=CC=C(C=C1)S | C6H5IS
reactant | N-(tert-butoxycarbonyl)-2-pyrrolidinylmethyl p-toluenesulfonate | 6.75 mmol, 2.39 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1N(CCC1)C(=O)OC(C)(C)C)C | C17H25NO5S
reactant | KOH | 8N, 1.27 mL | [OH-].[K+]
solvent | pyridine | 12.7 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [N-(tert-butoxycarbonyl)-2-pyrrolidinyl]methyl 4-iodophenyl sulfide | 1.49 g, 53% | IC1=CC=C(C=C1)SCC1N(CCC1)C(=O)OC(C)(C)C | C16H22INO2S
